US04827004
A solution of 0.5 g (0.0016 mol) of (6Z,10E)-2,6,10-trimethyl-12-[(tetrahydro-2H-pyran-2-yl)oxy]-1,6,10-dodecatrien-3-ol dissolved in 15 ml of methylene chloride is treated with 10 g of manganese dioxide. The suspension is stirred at room temperature for 18 hours under argon. After filtration and removal of the solvent the residue is chromatographed on silica gel with ether-hexane 10:1. The product, containing (6Z,10E)-2,6,10-trimethyl-12-[(tetrahydro-2H-pyran-2-yl)oxy]-1,6,10-dodecatrien-3-one, is dissolved in 10 ml of tetrahydrofuran and 2.6 ml of water and treated with 118 mg of pyridinium p-toluenesulfonate. The solution is boiled at reflux for 17 hours. After cooling 100 ml of water and 200 ml of ether are added thereto. The organic phase is neutralized with sodium bicarbonate solution. After drying and removing the solvent the residue is chromatographed on silica gel with ether-hexane 1:1. There is obtained (6Z,10E)-12-hydroxy-2,6,10-trimethyl-1,6,10-dodecatrien-3-one which exhibits the following absorption bands in the IR spectrum: 3389 cm-1, 1675 cm-1, 1626 cm-1, 1413 cm-1, 1382 cm-1, 1000 cm-1, 948 cm-1.

reactant | (6Z,10E)-2,6,10-trimethyl-12-[(tetrahydro-2H-pyran-2-yl)oxy]-1,6,10-dodecatrien-3-ol | 0.0016 mol, 0.5 g | CC(=C)C(CC\C(=C/CC\C(=C\COC1OCCCC1)\C)\C)O | C20H34O3
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 10 g | [O-2].[O-2].[Mn+4]
product | (6Z,10E)-12-hydroxy-2,6,10-trimethyl-1,6,10-dodecatrien-3-one | OC/C=C(/CC\C=C(/CCC(C(=C)C)=O)\C)\C | C15H24O2
